data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2093,2321,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[NH+:20][C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[C:21]([C:22](=[O:23])[O:24][CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[NH:20][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,13.845216263613572,-36.45958330653744
2438,2706,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][N-:21][N+:22]#[C:23][C:24](=[O:25])[NH:26][CH3:27]>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[c:11]2[c:12]([n:21]([CH3:20])[n:22][c:23]2[C:24](=[O:25])[NH:26][CH3:27])[C:13]([Br:14])([Br:15])[CH2:16][CH2:17][CH2:18][CH2:19]1,water,298.15,22.01376683528133,-82.05119113331041
3543,4041,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][c-:8]1[nH+:9][c:10](-[c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[o:17][c:18]1=[O:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]2([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[NH:9][C:8]1([CH3:7])[C:18](=[O:19])[O:17]2,water,298.15,22.522239022406943,-1.3517690847473112
2343,2601,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][N-:21][C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[Br:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[N:21]([C:22]([CH3:23])=[O:24])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,22.99163885643977,-34.34143682121816
464,506,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][N-:19][C:20]#[N:21].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])=[N:18][N:19]2[C:20]#[N:21],water,298.15,13.951158872251394,-56.04742203773355
4519,5154,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]=[C:13]1[C:11]([CH3:10])=[O:12],water,298.15,16.55368960724041,-24.033441193601245
1112,1210,[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([CH3:18])[C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:21](=[O:22])[O:23][CH3:24])[O:16][C:17]3([CH3:18])[C:19]#[N:20],water,298.15,4.938127897225235,-64.70427601607818
3924,4488,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][CH:17]1[C:18]([CH3:19])=[O:20],water,298.15,26.05460021728641,-7.617941381639523
1685,1860,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]([Cl:6])=[C:7]([Cl:8])[Cl:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]([Cl:8])([Cl:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:21](=[O:22])[O:23][CH3:24],water,298.15,22.75834883393033,-28.83191842328384
4004,4580,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[N+:12]([CH3:13])=[C:14]([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:10]#[N:11])[N:12]([CH3:13])[C:14]1([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,39.81579318017069,-8.46630727165524
4279,4895,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH:15]#[N+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:16]=[CH:15]2,water,298.15,9.71251635064132,-30.66014825767952
304,330,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[N:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[N:12]([C:10]([CH3:9])=[O:11])[NH:13][N:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,25.365881316494125,-21.680824037898912
